US08975265B2
Step 1: 2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridine-6-carboxylic acid
2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester (0.76 g) was suspended in tert-butanol (19.2 mL) and treated with dilute aqueous sodium hydroxide solution (1M, 6.1 mL). The mixture was heated to 70° C. for 3.5 h. On cooling the reaction was diluted with water and the pH adjusted to 5 with dilute aqueous hydrochloric acid. The resulting emulsion was extracted with ethyl acetate and the organic extract washed with brine, dried and concentrated in vacuo to give the crude title compound which was used without further purification.

reactant | 2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester | 0.76 g | COC(=O)C=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)NC(=O)OC(C)(C)C)C2=CC=CC=C2 | C30H31N3O4
reactant | sodium hydroxide | 1M, 6.1 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tert-butanol | 19.2 mL | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | 2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridine-6-carboxylic acid | C(C)(C)(C)OC(=O)NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C(=O)O)C1C1=CC=CC=C1 | C29H29N3O4
